US09382228B2
A mixture of 3-bromo-2,4-dimethyl-6-nitropyridine (1.00 g, 4.33 mmol), 2-chloropyridin-4-ol (1.12 g, 8.66 mmol) and K2CO3 (1.79 g, 12.98 mmol) in DMA (5 mL) was sparged with Ar, heated at 105° C. overnight, then cooled to RT. The mixture was diluted with EtOAc, washed successively with 10% K2CO3, 5% LiCl, then brine, dried over Na2SO4, concentrated to dryness and purified via silica gel chromatography (EtOAc/Hex) to afford 3-((2-chloropyridin-4-yl)oxy)-2,4-dimethyl-6-nitropyridine (245 mg, 20%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 8.31 (d, J=5.2 Hz, 2H), 7.15 (d, J=2.3 Hz, 1H), 7.01 (dd, J=5.8, 2.3 Hz, 1H), 2.33 (s, 3H), 2.23 (s, 3H); MS (ESI) m/z: 280.0 (M+H+).

reactant | 3-bromo-2,4-dimethyl-6-nitropyridine | 4.33 mmol, 1.00 g | BrC=1C(=NC(=CC1C)[N+](=O)[O-])C | C7H7BrN2O2
reactant | 2-chloropyridin-4-ol | 8.66 mmol, 1.12 g | ClC1=NC=CC(=C1)O | C5H4ClNO
reactant | K2CO3 | 12.98 mmol, 1.79 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
product | 3-((2-chloropyridin-4-yl)oxy)-2,4-dimethyl-6-nitropyridine | 245 mg, 20% | ClC1=NC=CC(=C1)OC=1C(=NC(=CC1C)[N+](=O)[O-])C | C12H10ClN3O3
